US04760163
using isopropyl 2,4-difluoro-5-(1,2,4,5,6,7-hexahydro-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate and dimethyl sulphate with sodium isopropylate in isopropanol there is obtained isopropyl 2,4-difluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate, m.p. 112°-115° C.,

reactant | isopropyl 2,4-difluoro-5-(1,2,4,5,6,7-hexahydro-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | FC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC2=C(C1=O)CCC2)=O | C17H16F2N2O4
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium | [Na] | Na
solvent | isopropanol | C(C)(C)O | C3H8O
product | isopropyl 2,4-difluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | FC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(N(C2=C(C1=O)CCC2)C)=O | C18H18F2N2O4
